US08278383B2
Preparation of (3-Aminophenyl)triphenylphosphonium Iodide (18)
To a 3000 mL 3-necked round-bottomed flask fitted with a condenser, mechanical stirrer and gas inlet, about 329.33 g (1.25 mol) of triphenylphosphine (PPh3), Pd(acetate)2 (2.82 g, 0.0126 mol) and 1600 mL of de-gassed xylene was added. The mixture was stirred under argon until the PPh3 is dissolved. m-Iodoaniline (about 275.00 g; 1.25 mol) was added and the yellow-orange solution was refluxed for around 80 minutes. The product phosphonium compound ((3-aminophenyl)triphenylphosphonium Iodide) separated from solution as a yellow-orange solid. Excessive refluxing was avoided to prevent discoloration of the product phosphonium compound. The progress of the reaction was monitored using thin layer chromatography (TLC) with a 50/50 hexane/ethyl acetate developing solution. After the reflux, the product was filtered. The product 15 was reslurried with hot toluene, and stirred for 15 minutes. The solution was then filtered and rinsed with additional toluene/xylene. After drying in a 150° C. vacuum oven for 20 hours, 585.01 g of off-white product was obtained in a 96% yield. The melting point and NMR data are consistent with the structure of product (15). MP: 316.0° C. 1H NMR (δ, D6-DMSO): 8-6.6 (m, 19H, aromatics), 5.88 (s, 2H).

reactant | triphenylphosphine | 1.25 mol, about 329.33 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | PPh3 | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | m-Iodoaniline | 1.25 mol, about 275.00 g | IC=1C=C(N)C=CC1 | C6H6IN
catalyst | Pd(acetate)2 | 0.0126 mol, 2.82 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | xylene | 1600 mL | C=1(C(=CC=CC1)C)C | C8H10
product | (3-Aminophenyl)triphenylphosphonium Iodide | 585.01 g, 96% yield | [I-].NC=1C=C(C=CC1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H21NP.HI/c25-20-11-10-18-24(19-20)26(21-12-4-1-5-13-21,22-14-6-2-7-15-22)23-16-8-3-9-17-23;/h1-19H,25H2;1H/q+1;/p-1
